US04933354
To 90 ml of thionyl chloride was added dropwise 23.5 g of 2-pyrrolidone-5-carboxylic acid with stirring under ice-cooling, and the mixture was stirred for 30 minutes at 40°-50° C. After cooling of the reaction mixture, 200 ml of dry diethyl ether was added to the reaction mixture, and the reaction mixture was allowed to stand overnight in a freezing box. Precipitated crystals were collected by filtration, washed with dry diethyl ether, and dried in a desiccator to obtain 27 g of 2-pyrrolidone-5-carbonyl chloride. The obtained acid chloride was dissolved in 500 ml of dry chloroform, and to the solution were added 13.5 g of 2-pyridylmethanol with stirring at room temperature, and then the reaction mixture was heated under refluxing. After completion of the reaction, to the reaction mixture was added an aqueous sodium bicarbonate solution to make the solution basic at pH 9, and the reaction mixture was extracted with chloroform. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and evaporated under reduced pressure. The residue was recrystallized from benzene to obtain 16.2 g of 2-pyridylmethyl 2-pyrrolidone-5-carboxylate. (yield 60.0%)

reactant | thionyl chloride | 90 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-pyrrolidone-5-carboxylic acid | 23.5 g | N1C(CCC1C(=O)O)=O | C5H7NO3
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 2-pyrrolidone-5-carbonyl chloride | 27 g | N1C(CCC1C(=O)Cl)=O | C5H6ClNO2
